US07138414B2
c) 1-{2-[3-(2-chloro-4,5-difluorobenzoyl)ureido]-4-chlorophenyl}piperidine-4-carboxylic acid
The mixture consisting of 90 mg of methyl 1-{2-[3-(2-chloro-4,5-difluoro-benzoyl)ureido]-4-chlorophenyl}piperidine-4-carboxylate (Ex.15), 9.6 mg of lithium hydroxide, 3 ml of water, 3 ml of methanol and 3 ml of THF is allowed to stand at room temperature for 36 hours. The volatile fractions are removed at RT under reduced pressure and the remainder is adjusted to pH=4 using 2N hydrochloric acid. The precipitate formed is filtered off with suction and purified by column chromatography (silica gel, solvent: methylene chloride:methanol=9:1).

reactant | methyl 1-{2-[3-(2-chloro-4,5-difluoro-benzoyl)ureido]-4-chlorophenyl}piperidine-4-carboxylate | 90 mg | ClC1=C(C(=O)NC(NC2=C(C=CC(=C2)Cl)N2CCC(CC2)C(=O)OC)=O)C=C(C(=C1)F)F | C21H19Cl2F2N3O4
reactant | lithium hydroxide | 9.6 mg | [OH-].[Li+]
reactant | water | 3 ml | O | H2O
reactant | methanol | 3 ml | CO | CH4O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 1-{2-[3-(2-chloro-4,5-difluorobenzoyl)ureido]-4-chlorophenyl}piperidine-4-carboxylic acid | ClC1=C(C(=O)NC(NC2=C(C=CC(=C2)Cl)N2CCC(CC2)C(=O)O)=O)C=C(C(=C1)F)F | C20H17Cl2F2N3O4
